US03931167
Conversion of 6α,7α-dihydroxy-4-androstene-3,17-dione to the corresponding 6α,7α-dimethanesulfonate ester by treatment with methanesulfonyl chloride in pyridine in a manner similar to that described in Example 22B followed by treatment of the resulting 6α,7α-dimethanesulfonyloxy-4-androstene-3,17-dione with sodium azide in dimethylformamide in a manner similar to that described in above Example 22C does not yield an identifiable amount of 6-azido-4,6-androstadiene-3,17-dione. Similarly, treatment of 6α,7α-dimethanesulfonyloxy-4-androstene-3,17-dione with sodium azide in aqueous methanol in the presence of acetic acid in a manner similar to that described in Example 6, does not yield an identifiable quantity of 6-azido-4,6-androstadiene-3,17-dione.

reactant | 6α,7α-dimethanesulfonyloxy-4-androstene-3,17-dione | CS(=O)(=O)O[C@H]1[C@H]([C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)=O)OS(=O)(=O)C | C21H30O8S2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methanol | CO | CH4O
product | 6-azido-4,6-androstadiene-3,17-dione | N(=[N+]=[N-])C1=C[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2[C@]2(CCC(C=C12)=O)C)=O | C19H23N3O2
